US06046208
1-(Piperidin-4-yl)-4-(4-fluorophenoxy)-5-[2-(4-isopropylphenoxy)pyrimidin-4-yl]imidazole
1-(Piperidin-4-yl)-4-(4-fluorophenyl)-5-[2-(4-isopropylphenoxy)pyrimidin-4-yl]imidazole. The product of the preceding example was combined with TFA, stirred 30 min and the TFA was removed in vacuo. The residue was dissolved in EtOAc (75 mL) and washed with 10% aq NaOH, H2O, satd aq NaCl, dried (Na2SO4) and concentrated. The resulting residue was crystallized from EtOAc/hexane to afford 44 mg of the title compound as a white solid. ES+MS m/z=458 (MH+).

reactant | 1-(Piperidin-4-yl)-4-(4-fluorophenyl)-5-[2-(4-isopropylphenoxy)pyrimidin-4-yl]imidazole | N1CCC(CC1)N1C=NC(=C1C1=NC(=NC=C1)OC1=CC=C(C=C1)C(C)C)C1=CC=C(C=C1)F | C27H28FN5O
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
product | 1-(Piperidin-4-yl)-4-(4-fluorophenoxy)-5-[2-(4-isopropylphenoxy)pyrimidin-4-yl]imidazole | 44 mg | N1CCC(CC1)N1C=NC(=C1C1=NC(=NC=C1)OC1=CC=C(C=C1)C(C)C)OC1=CC=C(C=C1)F | C27H28FN5O2
